US06117873
b) 7-Bromo-5-methyl-1,2,3,4-tetrahydroquinoxalin-2,3-dione
13.05 g (64.9 mmol) of 5-bromo-2,3-diaminotoluene and 6.42 g (1.1 eq.) of oxalic acid are stirred under reflux for 16 hours in 2N hydrochloric acid. The mixture is cooled, and the solid is filtered off and washed with water. The title compound is obtained as a brown solid.

reactant | 5-bromo-2,3-diaminotoluene | 64.9 mmol, 13.05 g | BrC=1C=C(C(=C(C1)C)N)N | C7H9BrN2
reactant | oxalic acid | 6.42 g, 1.1 eq. | C(C(=O)O)(=O)O | C2H2O4
solvent | hydrochloric acid | 2N | Cl | ClH
product | 7-Bromo-5-methyl-1,2,3,4-tetrahydroquinoxalin-2,3-dione | BrC1=CC(=C2NC(C(NC2=C1)=O)=O)C | C9H7BrN2O2
